US04603135
A mixture of m-nitrobenzaldehyde (1.67 g), 2-(4-benzhydryl-1-piperazinyl)ethyl acetoacetate (4.20 g), benzene (40 ml) and piperidine (0.05 g) was refluxed for 4 hours, during which time the water produced was removed using a Dean-Stark trap. The mixture was washed with water and dried (MgSO4). The solvent was then distilled off and the residue was purified by column chromatography on silica gel (100 g) [eluent: ethyl ether-ethyl acetate (10:1, v/v)] to give 2-(4-benzhydryl-1-piperazinyl)ethyl 2-(3-nitrobenzylidene)acetoacetate as an oil. Yield 4.37 g.

reactant | m-nitrobenzaldehyde | 1.67 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | 2-(4-benzhydryl-1-piperazinyl)ethyl acetoacetate | 4.20 g | C(CC(=O)C)(=O)OCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C23H28N2O3
reactant | benzene | 40 ml | C1=CC=CC=C1 | C6H6
reactant | piperidine | 0.05 g | N1CCCCC1 | C5H11N
solvent | water | O | H2O
product | 2-(4-benzhydryl-1-piperazinyl)ethyl 2-(3-nitrobenzylidene)acetoacetate | [N+](=O)([O-])C=1C=C(C=C(C(=O)OCCN2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)C)C=CC1 | C30H31N3O5
